US07737177B2
Preparation of Amorphous Mupirocin Calcium by Lyophilization
Pseudomonic acid (10.01 g, 20 mmole) was dissolved in a mixture of methanol/water (50 ml and 36 ml). Calcium oxide (0.78 g, 14 mmole) was added portionwise to the mixture and was stirred for 1 h. The solution was filtered, and the methanol was evaporated from the filtrate at reduced pressure to give a final volume of 30 ml. Water (20 ml) was added to the solution. Then the solution was freeze dried to obtain 9.11 grams of product.

reactant | Pseudomonic acid | 20 mmole, 10.01 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | Calcium oxide | 14 mmole, 0.78 g | [O-2].[Ca+2]
reactant | Water | 20 ml | O | H2O
solvent | methanol water | 50 ml | CO.O
product | Mupirocin Calcium | 9.11 grams | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.[Ca+2] | InChI=1S/2C26H44O9.Ca/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);/q;;+2/p-2/b2*16-13+;/t2*17-,18-,19-,20-,21-,24+,25-,26-;/m00./s1
